US04101579
5-(2-tert.butylamino-1-hydroxyethyl)-salicylamide hydrochloride (2.0g) in ethyl methyl ketone (50 ml) and anhydrous potassium carbonate (1.5 g) were refluxed together with stirring for 1/2 hour. Benzyl chloride (1.75 g) in ethyl methyl ketone (5 ml) was added dropwise with stirring and the mixture was refluxed for 17 hours. The potassium salts were filtered off and the filtrate was evaporated to dryness in vacuo leaving a cream solid which was crystallised from ethyl acetate to afford 2-(benzyloxy)-5-(2-tert. butylamino-1-hydroxyethyl)-benzamide as colourless needles (1.4g) m.p. 120° C.

reactant | 5-(2-tert.butylamino-1-hydroxyethyl)-salicylamide hydrochloride | 2.0g | Cl.C(C)(C)(C)NCC(O)C1=CC=C(C(C(=O)N)=C1)O
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl chloride | 1.75 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | ethyl methyl ketone | 50 ml | CC(=O)CC | C4H8O
solvent | ethyl methyl ketone | 5 ml | CC(=O)CC | C4H8O
product | 2-(benzyloxy)-5-(2-tert. butylamino-1-hydroxyethyl)-benzamide | 1.4g | C(C1=CC=CC=C1)OC1=C(C(=O)N)C=C(C=C1)C(CNC(C)(C)C)O | C20H26N2O3
